US06294558B1
2-Fluoro-4-[2-methyl-5-[4-(2-trimethylsilyl-1,3-thiazol-4-yl)phenyl]-1,3-oxazol-4-yl]benzenesulfonamide. (step 5)
The title compound was prepared according to the procedure of Example 153 (step 4) using 4-[5-(4-Bromophenyl)-2-methyl-1,3-oxazol-4-yl]-2-fluorobenzenesulfonamide instead of 2-(4-bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-4-trifluoromethyl-1H-imidazole and using 4-(tributylstannyl)-2-trimethylsilylthiazole instead of 4-(tributylstannyl)thiazole.

reactant | 4-[5-(4-Bromophenyl)-2-methyl-1,3-oxazol-4-yl]-2-fluorobenzenesulfonamide | BrC1=CC=C(C=C1)C1=C(N=C(O1)C)C1=CC(=C(C=C1)S(=O)(=O)N)F | C16H12BrFN2O3S
reactant | 4-(tributylstannyl)-2-trimethylsilylthiazole | C(CCC)[Sn](C=1N=C(SC1)[Si](C)(C)C)(CCCC)CCCC
product | 2-Fluoro-4-[2-methyl-5-[4-(2-trimethylsilyl-1,3-thiazol-4-yl)phenyl]-1,3-oxazol-4-yl]benzenesulfonamide | FC1=C(C=CC(=C1)C=1N=C(OC1C1=CC=C(C=C1)C=1N=C(SC1)[Si](C)(C)C)C)S(=O)(=O)N | C22H22FN3O3S2Si
